US04206234
A mixture of 4-hydroxy-α-ethyldesoxybenzoin (44.5 g.), sodium carbonate (18.5 g.), potassium iodide (1.4 g.) and benzyl chloride (19 ml.) in ethanol (350 ml.) and water (50 ml.) was stirred and heated under reflux for 8 hours. The mixture was cooled, filtered and the residue washed with water to give 4-benzyloxy-α-ethyldesoxybenzoin (54.3 g.), m.p. 71° C.

reactant | 4-hydroxy-α-ethyldesoxybenzoin | 44.5 g | OC1=CC=C(C=C1)C(=O)C(C1=CC=CC=C1)CC | C16H16O2
reactant | sodium carbonate | 18.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloride | 19 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
catalyst | potassium iodide | 1.4 g | [I-].[K+]
product | 4-benzyloxy-α-ethyldesoxybenzoin | 54.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C(C1=CC=CC=C1)CC | C23H22O2
